US05731315
G. 4,6-Dichlorobenzo[b]thiophene-2-sulfonic acid [1-(2-hydroxy-5-cyano-benzyl)-2-oxo-pyrrolidin-3-yl]-amide
To a solution of 3-[(3-amino-2-oxo-pyrrolidin-1-yl)-methyl]-4-hydroxy-benzonitrile hydrochloride (0.20 g, 0.75 mmol) in 3 mL of pyridine at 0° C. is added 4,6-dichlorobenzo[b]thiophene-2-sulfonyl chloride. The solution is allowed to warm to ambient temperatures and is stirred for 6 h. After this time, the solution is concentrated. The residue is dissolved in CH2 Cl2. The organic solution is washed with 1N HCl and saturated NaCl. The crude product is triturated with Et2O to give the title compound (0.22 g, 0.44 mmol) as a white solid.

reactant | 3-[(3-amino-2-oxo-pyrrolidin-1-yl)-methyl]-4-hydroxy-benzonitrile hydrochloride | 0.75 mmol, 0.20 g | Cl.NC1C(N(CC1)CC=1C=C(C#N)C=CC1O)=O
reactant | 4,6-dichlorobenzo[b]thiophene-2-sulfonyl chloride | ClC1=CC(=CC=2SC(=CC21)S(=O)(=O)Cl)Cl | C8H3Cl3O2S2
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
product | 4,6-Dichlorobenzo[b]thiophene-2-sulfonic acid [1-(2-hydroxy-5-cyano-benzyl)-2-oxo-pyrrolidin-3-yl]-amide | 0.44 mmol, 0.22 g | OC1=C(CN2C(C(CC2)NS(=O)(=O)C2=CC3=C(S2)C=C(C=C3Cl)Cl)=O)C=C(C=C1)C#N | C20H15Cl2N3O4S2
